US08293768B2
Synthesis of 4-methyl-2-(2-oxo-3-pentylimidazolidin-1-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as describe in Example 9, making variations as required to replace 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 4-methyl-2-(2-oxo-3-pentylimidazolidin-1-yl)thiazole-5-carboxylic acid to react with 3-(aminomethyl)pyridine, the title compound was obtained as a white powder in 40% yield: mp 102-103° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.54-8.43 (m, 2H), 7.63 (d, J=7.5 Hz, 1H), 7.21-7.17 (m, 1H), 6.50 (br s, 1H), 4.54 (J=5.8 Hz, 2H), 4.05-3.97 (m, 2H), 3.55-3.47 (m, 2H), 3.26-3.14 (m, 2H), 2.55 (s, 3H), 1.52-1.46 (m, 2H), 1.30-1.20 (m, 4H), 0.84 (t, J=6.6 Hz, 3H); 13C NMR (75 MHz, CDCl3) δ 162.7, 157.5, 155.4, 153.6, 149.2, 148.8, 135.5, 134.0, 123.6, 116.6, 43.8, 42.1, 42.0, 41.3, 28.8, 26.9, 22.3, 17.3, 14.0; MS (ES+) m/z 388.3 (M+1).

reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
reactant | 4-methyl-2-(2-oxo-3-pentylimidazolidin-1-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CCCCC)=O | C13H19N3O3S
reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
product | 4-methyl-2-(2-oxo-3-pentylimidazolidin-1-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 40% yield | CC=1N=C(SC1C(=O)NCC=1C=NC=CC1)N1C(N(CC1)CCCCC)=O | C19H25N5O2S
